US05714488
To a solution in dry DMF (20 mL) of bis(4-hydroxyphenyl)methyloximinoacetic acid ethyl ester (0.64 g, 2 mmol), prepared as in step 1, was added cesium carbonate (1.6 g, 5 mmol), the mixture was stirred for 10 mutes, and 2-bromomethyl-7-chloroquinoline (1 g, 4 mmol) was added. After stirring for 18 hours, the mixture was poured into water and the precipitated solid was collected by filtration, washed with water, and dried in vacuo. Chromatography on silica gel (hexane/EtOAC 3:1) afforded bis(4-(7-chloro-2-quinolylmethoxy)phenyl)-methyloximinoacetic acid ethyl ester (1.1 g).

reactant | bis(4-hydroxyphenyl)methyloximinoacetic acid ethyl ester | 2 mmol, 0.64 g | C(C)OC(C(=NO)C(C1=CC=C(C=C1)O)C1=CC=C(C=C1)O)=O | C17H17NO5
reactant | cesium carbonate | 5 mmol, 1.6 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-bromomethyl-7-chloroquinoline | 4 mmol, 1 g | BrCC1=NC2=CC(=CC=C2C=C1)Cl | C10H7BrClN
reactant | water | O | H2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | bis(4-(7-chloro-2-quinolylmethoxy)phenyl)-methyloximinoacetic acid ethyl ester | 1.1 g | C(C)OC(C(=NO)C(C1=CC=C(C=C1)OCC1=NC2=CC(=CC=C2C=C1)Cl)C1=CC=C(C=C1)OCC1=NC2=CC(=CC=C2C=C1)Cl)=O | C37H29Cl2N3O5
